US07084145B2
1-Pyrimidin-2-yl-piperidine-4-carboxylic acid N′-butyryl-hydrazide
A mixture of 1-pyrimidin-2-yl-piperidine-4-carboxylic acid (3.0 g, 14.5 mmol)(see reference U.S. Pat. No. 4,826,843), 1-hydroxybenzotriazole hydrate (1.96 g, 14.5 mmol) and 1-(3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (2.78 g, 14.5 mmol) in dichloromethane (100 ml) was stirred for 10 minutes. Butyric acid hydrazide (1.78 g, 17.4 mmol) was added and the reaction mixture was stirred under a nitrogen atmosphere for 18 hours. The reaction mixture was diluted with dichloromethane (100 ml) and sodium hydrogen carbonate solution was added. The reaction mixture was concentrated under reduced pressure and the solid formed was isolated by filtration. The material obtained was dried under vacuum at 40° C. to give the title compound (2.62 g).

reactant | 1-pyrimidin-2-yl-piperidine-4-carboxylic acid | 14.5 mmol, 3.0 g | N1=C(N=CC=C1)N1CCC(CC1)C(=O)O | C10H13N3O2
reactant | 1-hydroxybenzotriazole hydrate | 14.5 mmol, 1.96 g | O.ON1N=NC2=C1C=CC=C2
reactant | 3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 14.5 mmol, 2.78 g | Cl.CN(CCCN=C=NCC)C
reactant | Butyric acid hydrazide | 17.4 mmol, 1.78 g | C(CCC)(=O)NN | C4H10N2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1-Pyrimidin-2-yl-piperidine-4-carboxylic acid N′-butyryl-hydrazide | 2.62 g | C(CCC)(=O)NNC(=O)C1CCN(CC1)C1=NC=CC=N1 | C14H21N5O2
